US04127717
(B) 1,4,9,10-Tetrahydro-N,N-dimethyl-9-anthracenepropanamine
A solution of 21.55 g of 9,10-dihydro-N,N-dimethyl-9-anthracenepropanamine in 100 ml of ether is added to 1 liter of liquid ammonia. Lithium ribbon (1.125 g) is added in several portions over a period of 5 minutes. After stirring for 15 minutes, absolute ethanol is added dropwise until the color is discharged (25 ml added in 30 minutes). More ether is added and the ammonia is boiled off. The mixture is then cooled in an ice bath and 500 ml of water is added. The layers are separated and the aqueous layer is reextracted with ether. The combined ether layers are dried over potassium carbonate, filtered, and the solvent is removed in vacuo leaving 21.2 g of crude product.

reactant | 9,10-dihydro-N,N-dimethyl-9-anthracenepropanamine | 21.55 g | CN(CCCC1C2=CC=CC=C2CC=2C=CC=CC12)C | C19H23N
reactant | ammonia | N | H3N
reactant | Lithium | [Li] | Li
reactant | ethanol | C(C)O | C2H6O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 500 ml | O | H2O
product | 1,4,9,10-Tetrahydro-N,N-dimethyl-9-anthracenepropanamine | 21.2 g | CN(CCCC1C2=CC=CC=C2CC=2CC=CCC12)C | C19H25N
